US08217035B2
To the HCl salt of 3-methoxy-phenylamine (4.7 g, 29.7 mmol) in 30 mL acetic acid was added 3-(3-methoxy-phenylamino)-2-nitro-propenal (3.3 g, 14.9 mmol). The reaction mixture was heated to reflux, and thiophenol (0.3 mL, 2.98 mmol) was added. After 22 h, the reaction mixture was cooled to room temperature and the solvent was removed in vacuo. Addition of 70 mL EtOAc and filtration gave solid byproduct, 7-methoxy-3-nitro-quinoline, and a filtrate, which contained impure 5-methoxy-3-nitro-quinoline. The filtrate was loaded on to silica column and eluted from 5% to 25% EtOAc in hexanes at 85 mL/min for 30 minutes. The product-enriched fractions were concentrated and taken on to the next step as a mixture of 5- and 7-methoxy substituted 3-nitroquinolines. LC/MS (m/z): 205.1 (MH+), Rt 2.26 minutes.

reactant | HCl | Cl | ClH
reactant | 3-methoxy-phenylamine | 29.7 mmol, 4.7 g | COC=1C=C(C=CC1)N | C7H9NO
reactant | 3-(3-methoxy-phenylamino)-2-nitro-propenal | 14.9 mmol, 3.3 g | COC=1C=C(C=CC1)NC=C(C=O)[N+](=O)[O-] | C10H10N2O4
reactant | thiophenol | 2.98 mmol, 0.3 mL | C1(=CC=CC=C1)S | C6H6S
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 7-methoxy-3-nitro-quinoline | COC1=CC=C2C=C(C=NC2=C1)[N+](=O)[O-] | C10H8N2O3
